US04447655
Another sample of purified BPA crystals was obtained by the batch-wise process described in copending application Ser. No. 443,344 filed Nov. 15, 1982 utilizing less organic washing solvent than is preferred for that process. Molten crude bisphenol-A (I.A. 2.00, impurities 4% by weight including phenol) was mixed with 2 parts of water. The mixture was cooled gradually to crystallize bisphenol-A and form a water/BPA crystal slurry when the temperature in the crystallizer reached 65° C., 1/2 part of toluene per part of crude bisphenol-A on a weight basis was added to the mixture. After agitating the bisphenol-A crystals/water/toluene mixture for 10 minutes, the mixture was allowed to settle. Three phases were observed. The top phase was decanted and the bisphenol-A crystals were recovered from the remaining water/bisphenol-A crystal slurry with the help of a basket centrifuge. The recovered bisphenol-A crystals had an I.A. value of 0.15 and negligable detectable impurities. The mother liquor aqueous liquid had 0.5 weight percent phenol and trace quantities of calibrated impurites associated with bisphenol-A.

reactant | bisphenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
solvent | water | O | H2O
product | water BPA | O.CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | InChI=1S/C15H16O2.H2O/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;/h3-10,16-17H,1-2H3;1H2
